US04344946
(b) 2-(Diethylamino-acetylamino)-6-amino-benzo[1,2-d:5,4-d']bisthiazole
A mixture of 0.5 gm of 2-(chloroacetyl-amino)-6-amino-benzo[1,2-d:5,4-d']bisthiazole, 0.7 gm of diethylamine and 3 ml of dioxane was refluxed for 2 hours. Then, the solvent was evaporated in vacuo, the residue was dissolved in ethyl acetate, and the solution was washed with water and dried over sodium sulfate. After evaporation of the solvent, 0.3 gm (60% of theory) of the title compound, M.P. 203°-205° C. (from ethanol/dimethylformamide) were obtained.

reactant | 2-(chloroacetyl-amino)-6-amino-benzo[1,2-d:5,4-d']bisthiazole | 0.5 gm | ClCC(=O)NC=1SC=2C(N1)=CC=1N=C(SC1C2)N | C10H7ClN4OS2
reactant | diethylamine | 0.7 gm | C(C)NCC | C4H11N
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 2-(Diethylamino-acetylamino)-6-amino-benzo[1,2-d:5,4-d']bisthiazole | C(C)N(CC)N(C=1SC=2C(N1)=CC=1N=C(SC1C2)N)C(C)=O | C14H17N5OS2
